US08022062B2
2,2-Difluoro-2-phenyl-ethylamine:
Dissolve (2-azido-1,1-difluoro-ethyl)-benzene (475 mg, 2.59 mmol) in EtOAc (30 mL). Add 10% Pd/C and submit the mixture to hydrogenation under atmospheric pressure (balloon) for 1 h. Filter the catalyst through Celite® and concentrate the filtrate in vacuo to provide the title compound as an oil (400 mg, 98%) that was used without any further purification.

reactant | (2-azido-1,1-difluoro-ethyl)-benzene | 2.59 mmol, 475 mg | N(=[N+]=[N-])CC(F)(F)C1=CC=CC=C1 | C8H7F2N3
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | 2,2-Difluoro-2-phenyl-ethylamine | 400 mg, 98% | FC(CN)(C1=CC=CC=C1)F | C8H9F2N
